US05445764
A) 3,4,5-Trifluorovinylbenzene
A mixture of 1 mol of 3,4,5-trifluorobromobenzene and 3 l of THF is admixed at -70° C. with 1 mol of BuLi. Subsequently, a mixture of 0.5 mol of zinc bromide in 1 l of THF is added to the reaction mixture, and this mixture is stirred for 30 minutes at -65° C. Then 1 mol of vinyl bromide and 0.022 mol of nickel(II) chloride/TPP is added.

reactant | 3,4,5-trifluorobromobenzene | 1 mol | FC=1C=C(C=C(C1F)F)Br | C6H2BrF3
reactant | BuLi | 1 mol | [Li]CCCC
reactant | vinyl bromide | 1 mol | C(=C)Br | C2H3Br
solvent | THF | 1 l | C1CCOC1 | C4H8O
catalyst | zinc bromide | 0.5 mol | [Br-].[Zn+2].[Br-]
catalyst | nickel(II) chloride | 0.022 mol | [Ni](Cl)Cl
solvent | THF | 3 l | C1CCOC1 | C4H8O
product | 3,4,5-Trifluorovinylbenzene | FC=1C=C(C=C(C1F)F)C=C | C8H5F3
